US06207693B1
To a solution of 4-(2,3-diaminobenzoyl)amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)-carbonylpent-1-yloxy]phenyl]benzamide (240 mg) in acetonitrile (1 ml) was added cyanoacetic acid (662 mg). The solution was heated at 100° C. for 8 hours. After cooling, aqueous sodium hydrogen carbonate was added to the mixture and extracted with ethyl acetate. The extract was washed with brine and dried over sodium sulfate. After evaporation of the solvent, the residue was purified by silica gel column chromatography (7% methanol in chloroform) and preparative thin-layer chromatography (ethyl acetate:methanol=1:1) to give 4-[[2-cyanomethyl-1H-benzimidazol-4-yl]carbonylamino]-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (80 mg).

reactant | 4-(2,3-diaminobenzoyl)amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)-carbonylpent-1-yloxy]phenyl]benzamide | 240 mg | NC1=C(C(=O)NC2=C(C=C(C(=O)N(C3=C(C=C(C=C3)C)OCCCCC(N3CCN(CC3)C)=C=O)C)C=C2)OC)C=CC=C1N | C34H42N6O5
reactant | cyanoacetic acid | 662 mg | C(#N)CC(=O)O | C3H3NO2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | acetonitrile | 1 ml | C(C)#N | C2H3N
product | 4-[[2-cyanomethyl-1H-benzimidazol-4-yl]carbonylamino]-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 80 mg | C(#N)CC1=NC2=C(N1)C=CC=C2C(=O)NC2=C(C=C(C(=O)N(C1=C(C=C(C=C1)C)OCCCCCC(=O)N1CCN(CC1)C)C)C=C2)OC | C37H43N7O5
